US04981853
Preparation of 1-[3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-1-oxobutyl]pyrrolidine
Following the procedure of Example 4, 2,6-bis(1,1-dimethylethyl)4-mercaptophenol (2.0 g. 0.008 mole) and 1(1-oxo-2-butenyl)pyrrolidine (1.11 g, 0.008 mole) were dissolved in methanol (20 ml) under an argon atmosphere and refluxed for 24 hours. The solvent was removed and the product isolated by chromatography on silica, and recrystallized from hexane to yield the product as a white solid, m.p. about 95°-99° C.

reactant | 2,6-bis(1,1-dimethylethyl)4-mercaptophenol | 0.008 mole, 2.0 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | 1(1-oxo-2-butenyl)pyrrolidine | 0.008 mole, 1.11 g | O=C(C=CC)N1CCCC1 | C8H13NO
solvent | methanol | 20 ml | CO | CH4O
product | 1-[3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-1-oxobutyl]pyrrolidine | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(CC(=O)N1CCCC1)C | C22H35NO2S
